US04236002
To about 0.15 mole of α-amino-4-hydroxybenzeneacetic acid dissolved in 700 ml of water and 0.2 mole of glacial acetic acid is added about 0.2 mole of potassium cyanate. The resulting mixture is stirred at room temperature for about 30 minutes. The reaction mixture is saturated with sodium chloride and then extracted with ethyl acetate. The ethyl acetate is washed with water, dried over magnesium sulfate, filtered and evaporated to give α-(aminocarbonyl)amino-4-hydroxybenzeneacetic acid

reactant | α-amino-4-hydroxybenzeneacetic acid | about 0.15 mole | NC(C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | acetic acid | 0.2 mole | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | about 0.2 mole | [O-]C#N.[K+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 700 ml | O | H2O
product | α-(aminocarbonyl)amino-4-hydroxybenzeneacetic acid | NC(=O)NC(C(=O)O)C1=CC=C(C=C1)O | C9H10N2O4
